US05767293
To a solution of 6-hydroxy-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane (14.1 mg) in freshly distilled tetrahydrofuran (0.5 ml) was added sodium hydride (6.0 mg, 60% oil dispersion) in one portion at 5° C. The mixture was stirred for half an hour at the same temperature and then isobutyl chloroformate (7 mg) was added thereto. The reaction mixture was stirred for 2 hours at ambient temperature and then diluted with diethyl ether. The organic layer was washed with brine, dried, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (elution by diethyl ether/n-hexane =1/3) to yield 6-isobutoxycarbonyloxy-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane (5.1 mg) as an oil.

reactant | 6-hydroxy-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane | 14.1 mg | OC1C(C(C2(CO2)CC1)C1(OC1CC=C(C)C)C)OC | C16H26O4
reactant | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
reactant | sodium hydride | 6.0 mg | [H-].[Na+]
reactant | isobutyl chloroformate | 7 mg | ClC(=O)OCC(C)C | C5H9ClO2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-isobutoxycarbonyloxy-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane | 5.1 mg | C(C(C)C)OC(=O)OC1C(C(C2(CO2)CC1)C1(OC1CC=C(C)C)C)OC | C21H34O6
